* Subcircuit MUX2-1
.subckt MUX2-1 /a /b /sel /sel_b /out 
* c:\fossee_2.3\esim\library\subcircuitlibrary\mux2-1\mux2-1.cir
.include NMOS-180nm.lib
.include PMOS-180nm.lib
m2 /out /sel /a net-_m1-pad4_ CMOSP W=100u L=100u M=1
m4 /out /sel_b /a gnd CMOSN W=100u L=100u M=1
m1 /out /sel_b /b net-_m1-pad4_ CMOSP W=100u L=100u M=1
m3 /out /sel /b gnd CMOSN W=100u L=100u M=1
v2 net-_m1-pad4_ gnd  dc 1.8
* Control Statements

.ends MUX2-1