* Subcircuit buffer
.subckt buffer /in /out 
* c:\fossee_2.3\esim\library\subcircuitlibrary\buffer\buffer.cir
.include PMOS-180nm.lib
.include NMOS-180nm.lib
m2 net-_m1-pad1_ /in net-_m2-pad3_ net-_m2-pad3_ CMOSP W=1.6u L=0.18u M=1
m1 net-_m1-pad1_ /in gnd gnd CMOSN W=0.8u L=0.18u M=1
m4 /out net-_m1-pad1_ net-_m2-pad3_ net-_m2-pad3_ CMOSP W=1.6u L=0.18u M=1
m3 /out net-_m1-pad1_ gnd gnd CMOSN W=0.8u L=0.18u M=1
v2 net-_m2-pad3_ gnd  dc 1.8
* Control Statements

.ends buffer